US05420164
A solution of 5 g of 4-phenylcyclohexanone and cyclohexylmethylamine in 100 ml of benzene was refluxed for 2 hours with removing water and the solvent was distilled away in vacuo. The residue was dissolved in methanol and to the solution was added 1.5 g of sodium borohydride. The mixture was stirred at room temperature and the solvent was distilled away in vacuo. To the residue was added water and extracted with diethyl ether. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was distilled away to give 7 g of N-(4-phenylcyclohexyl)-N-cyclohexylmethylamine as an oil. (N-(4-phenylcyclohexyl)-N-cyclohexylmethylamine hydrochloride, melting at 267°-270° C. with decomposition)

reactant | 4-phenylcyclohexanone | 5 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | cyclohexylmethylamine | C1(CCCCC1)CN | C7H15N
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(4-phenylcyclohexyl)-N-cyclohexylmethylamine | 7 g | C1(=CC=CC=C1)C1CCC(CC1)NCC1CCCCC1 | C19H29N
